US04985427
1-(3-Chlorophenyl)-dihydro-4-methyl-1,2,4-triazine-3,5-(2H,4H)-dione
Methyl [1-(3-chlorophenyl)-2-[(methylamino)carbonyl]hydrazino]acetate (700 mg) was dissolved in methanol (25 ml) under nitrogen. Solid sodium methoxide (350 mg) was added to the solution which was then stirred at room temperature for 40 min. The reaction was poured into pH 6.5 phosphate buffer solution (100 ml) and extracted with ethyl acetate (3×70 ml). The combined, dried organic extracts were concentrated in vacuo to give a solid which was triturated with ether (2×20 ml) to give the title compound (352 mg), m.p. 178°-180°.

reactant | Methyl [1-(3-chlorophenyl)-2-[(methylamino)carbonyl]hydrazino]acetate | 700 mg | ClC=1C=C(C=CC1)N(NC(=O)NC)CC(=O)OC | C11H14ClN3O3
reactant | sodium methoxide | 350 mg | C[O-].[Na+]
reactant | phosphate | 100 ml, pH 6.5 | P(=O)([O-])([O-])[O-]
solvent | methanol | 25 ml | CO | CH4O
product | 1-(3-Chlorophenyl)-dihydro-4-methyl-1,2,4-triazine-3,5-(2H,4H)-dione | 352 mg | ClC=1C=C(C=CC1)N1NC(N(C(C1)=O)C)=O | C10H10ClN3O2
